US08071586B2
B) (S)-2,2-Dimethyl-4-(2-oxo-ethyl)-oxazolidine-3-carboxylic acid benzyl ester
A solution of dimethyl sulfoxide (6.39 g, 81.8 mmol) in dichloromethane (25 mL) as added at −70° C. to a solution of oxalyl chloride (5.59 g, 44.1 mmol) in dichloromethane (90 mL), then after 15 min a solution of (S)-4-(2-hydroxy-ethyl)-2,2-dimethyl-oxazolidine-3-carboxylic acid benzyl ester (8.79 g, 31.5 mmol) in dichloromethane (45 mL) was added dropwise. After 60 min triethylamine (15.9 g, 157 mmol) was added, then after 20 min the cooling bath was removed and the reaction mixture was stirred for 2 h. The reaction mixture was poured onto water and extracted five times with dichloromethane. The combined organic phases were dried (MgSO4), filtered, and evaporated. Chromatography (SiO2; heptane/ethyl acetate 1:1) produced the title compound (8.52 g, 98%) as light yellow liquid.

reactant | dimethyl sulfoxide | 81.8 mmol, 6.39 g | CS(=O)C | C2H6OS
reactant | oxalyl chloride | 44.1 mmol, 5.59 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | (S)-4-(2-hydroxy-ethyl)-2,2-dimethyl-oxazolidine-3-carboxylic acid benzyl ester | 31.5 mmol, 8.79 g | C(C1=CC=CC=C1)OC(=O)N1C(OC[C@@H]1CCO)(C)C | C15H21NO4
reactant | triethylamine | 157 mmol, 15.9 g | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 25 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 90 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 45 mL | ClCCl | CH2Cl2
product | (S)-2,2-Dimethyl-4-(2-oxo-ethyl)-oxazolidine-3-carboxylic acid benzyl ester | 8.52 g, 98% | C(C1=CC=CC=C1)OC(=O)N1C(OC[C@@H]1CC=O)(C)C | C15H19NO4
